US09290517B2
Step B: 2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide
2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide was dissolved in TFA (0.5 mL) and DCM (0.5 mL) and stirred at room temperature for 2 hours. The reaction mixture was evaporated to give an oil. The oil was dissolved in methanol (0.5 mL) and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient. The desired fractions were lyophilized to give the title compound as a solid. Major isomer LC-MS: calculated for C26H23ClN4O4 490.14 observed m/e: 491.23 (M+H)+ (Rt 0.53/2 min); 1H NMR δ (ppm) (CD3OD): 7.94 (s, 1H), 7.76 (ABq, 4H), 7.71 (d, 2H), 7.48 (dd, 2H), 7.38 (dd, 1H), 5.58 (qt, 1H), 5.00 (t, 1H), 4.56 (t, 1H), 4.12 (dd, 1H), 4.02 (m, 2H), 3.54 (dd, 1H), 2.64 (dd, 1H), 2.58 (m, 1H) and 2.38 (dd, 1H).

reactant | 2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)N | C32H37ClN4O5Si
reactant | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 0.5 mL | CO | CH4O
product | 2-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)N | C26H23ClN4O4
